US04618707
Some mixed solvents such as mixtures of propylene carbonate and toluene and mixtures of one or more organic carbonates with solvents such as xylene, toluene, benzene, chlorobenzene, dichlorobenzene, methylnaphthalene, and nitro hydrocarbons can be used effectively as solvents in the process of this invention. The process of this invention can be run at temperatures below 0 degrees C. using excess liquid HNCO as solvent. For instance, the reaction of alpha-terpinyl isocyanate with an excess of HNCO using CF3SO3H as catalyst at -20 degrees C. for 2 hours gave a 16% yield of menthane diisocyanate with a selectivity of 80%.

reactant | propylene carbonate | C1(OCC(C)O1)=O | C4H6O3
reactant | dichlorobenzene | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | methylnaphthalene | CC1=CC=CC2=CC=CC=C12 | C11H10
reactant | HNCO | N=C=O | CHNO
catalyst | CF3SO3H | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | menthane diisocyanate | 16% yield | [N-]=C=O.[N-]=C=O.C1(CCC(CC1)C(C)C)C | InChI=1S/C10H20.2CNO/c1-8(2)10-6-4-9(3)5-7-10;2*2-1-3/h8-10H,4-7H2,1-3H3;;/q;2*-1
